US05047430
2,4-Dibenzyloxybenzyl alcohol (19.8 g) was dissolved in anhydrous benzene (150 ml) and then thereto was added thionyl chloride (40 g), followed by reflux under heating for 1 hour. This was concentrated to dryness under reduced pressure to obtain crude 2,4-dibenzyloxybenzyl chloride. This product was used for the subsequent reaction without purification.

reactant | 2,4-Dibenzyloxybenzyl alcohol | 19.8 g | C(C1=CC=CC=C1)OC1=C(CO)C=CC(=C1)OCC1=CC=CC=C1 | C21H20O3
reactant | thionyl chloride | 40 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2,4-dibenzyloxybenzyl chloride | C(C1=CC=CC=C1)OC1=C(CCl)C=CC(=C1)OCC1=CC=CC=C1 | C21H19ClO2
